US06395731B1
To a solution of 1-(6-chloronaphth-2-ylsulphonyl)-4-[(2-tert-butyloxypyrimidin-4-yl)benzoyl]piperazine (120 mg, 0.213 mmol) in dichloromethane (5 ml) was added a solution of hydrogen chloride in methanol (0.24 ml of ˜4.5 M, 1.06 mmol). A precipitate formed immediately, and the reaction was stirred at ambient temperature for 1 hr. The solvent was removed in vacuo and the residue triturated with methanol. The solid was collected by filtration to give 1-(6-chloronaphth-2-ylsulphonyl)-4-[(2-hydroxypyrimidin-4-yl)benzoyl]piperazine hydrochloride as a colourless solid.

reactant | 1-(6-chloronaphth-2-ylsulphonyl)-4-[(2-tert-butyloxypyrimidin-4-yl)benzoyl]piperazine | 0.213 mmol, 120 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C1=NC(=NC=C1)OC(C)(C)C)=O | C29H29ClN4O4S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 1.06 mmol, ˜4.5 M, 0.24 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(6-chloronaphth-2-ylsulphonyl)-4-[(2-hydroxypyrimidin-4-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C1=NC(=NC=C1)O)=O | InChI=1S/C25H21ClN4O4S.ClH/c26-19-7-5-18-16-20(8-6-17(18)15-19)35(33,34)30-13-11-29(12-14-30)24(31)22-4-2-1-3-21(22)23-9-10-27-25(32)28-23;/h1-10,15-16H,11-14H2,(H,27,28,32);1H
